Transistor-level TIA private fixture
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib" mos_tt
.lib "/opt/ihp-open-pdk/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib" hbt_typ
.options method=gear maxord=2 reltol=1e-3 abstol=1e-12 vntol=1e-6 itl4=500 rshunt=1e12
R_TB_BUF_LOAD outp outn 100
* IHP SG13G2 25-Gbaud differential optical-receiver front end
*
* Public nodes:
*   vcc mc mgc oa inp inn finalp finaln gc agc
*   bufinp bufinn outp outn pkdinp pkdinn detp detn

* ======================== references ========================
Rrfh vcc vref 25350
Rrfl vref 0 7650
Crf vref 0 4p

Rcbh vcc bcb 1640
Rcbl bcb 0 1575
Ccb bcb 0 3p

Xmn_b nbias nbias 0 0 sg13_hv_nmos w=4u l=0.8u ng=1 m=1
Rnb vcc nbias 90k
Cnb nbias 0 0.3p

* weak VGA tail bias
Xmn_rf nrf nrf 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=2
Rnr vcc nrf 2.9k
Cnr nrf 0 0.3p

* stronger buffer/EF tail bias
Xmn_bf nbf nbf 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=2
Rnb2 vcc nbf 0.76k
Cnb2 nbf 0 0.3p

Xmp_b pbias pbias vcc vcc sg13_hv_pmos w=8u l=0.4u ng=1 m=1
Rpb pbias 0 5.1k
Cpb pbias vcc 0.3p

Rvbh vcc vgab 1660
Rvbl vgab 0 1640
Cvgb vgab 0 1p

Rbbh vcc vbb 1065
Rbbl vbb 0 2235
Cbb vbb 0 1p

* ======================== TIA P ========================
Xq_tia_p pkdinp bcb inp 0 npn13G2 Nx=5
Ltia_p vcc nltp 0.42n
Rtia_p nltp pkdinp 215
Csh_p pkdinp 0 8f

Xmp_in_p inp pbias vcc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=20
Xmn_in_p inp gdc_p 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=14

Xota_p_in di_p inp ot_p 0 sg13_hv_nmos w=6u l=1.2u ng=1 m=2
Xota_p_rf gdc_p vref ot_p 0 sg13_hv_nmos w=6u l=1.2u ng=1 m=2
Xota_p_tl ot_p nbias 0 0 sg13_hv_nmos w=4u l=0.8u ng=1 m=1
Xota_p_pd di_p di_p vcc vcc sg13_hv_pmos w=5u l=1.2u ng=1 m=1
Xota_p_po gdc_p di_p vcc vcc sg13_hv_pmos w=5u l=1.2u ng=1 m=1
Cota_p gdc_p 0 350p

Xq_ef0p vcc pkdinp tia_ef_p 0 npn13G2 Nx=2
Xmef0p tia_ef_p nbf 0 0 sg13_hv_nmos w=6u l=0.45u ng=1 m=2

* ======================== TIA N ========================
Xq_tia_n pkdinn bcb inn 0 npn13G2 Nx=5
Ltia_n vcc nltn 0.42n
Rtia_n nltn pkdinn 215
Csh_n pkdinn 0 8f

Xmp_in_n inn pbias vcc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=20
Xmn_in_n inn gdc_n 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=14

Xota_n_in di_n inn ot_n 0 sg13_hv_nmos w=6u l=1.2u ng=1 m=2
Xota_n_rf gdc_n vref ot_n 0 sg13_hv_nmos w=6u l=1.2u ng=1 m=2
Xota_n_tl ot_n nbias 0 0 sg13_hv_nmos w=4u l=0.8u ng=1 m=1
Xota_n_pd di_n di_n vcc vcc sg13_hv_pmos w=5u l=1.2u ng=1 m=1
Xota_n_po gdc_n di_n vcc vcc sg13_hv_pmos w=5u l=1.2u ng=1 m=1
Cota_n gdc_n 0 350p

Xq_ef0n vcc pkdinn tia_ef_n 0 npn13G2 Nx=2
Xmef0n tia_ef_n nbf 0 0 sg13_hv_nmos w=6u l=0.45u ng=1 m=2

Cc1p tia_ef_p ncc1p 500p
Cc1n tia_ef_n ncc1n 500p
Ls1p ncc1p vg1bp 155p
Ls1n ncc1n vg1bn 155p
Cd1p vg1bp 0 45f
Cd1n vg1bn 0 45f
Rb1p vg1bp vgab 2.0k
Rb1n vg1bn vgab 2.0k

* ======================== VGA-1 ========================
Xq1p midp vg1bp e1p 0 npn13G2 Nx=3
Xq1n midn vg1bn e1n 0 npn13G2 Nx=3
Re1p e1p t1 10
Re1n e1n t1 10
L1p vcc nl1p 0.34n
L1n vcc nl1n 0.34n
R1p nl1p midp 140
R1n nl1n midn 140
Xm1fix t1 nrf 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=3
Xm1gc t1 gc 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=3
C1t t1 0 3f

Xq_ef1p vcc midp vg1_ef_p 0 npn13G2 Nx=2
Xmef1p vg1_ef_p nbf 0 0 sg13_hv_nmos w=6u l=0.45u ng=1 m=2
Xq_ef1n vcc midn vg1_ef_n 0 npn13G2 Nx=2
Xmef1n vg1_ef_n nbf 0 0 sg13_hv_nmos w=6u l=0.45u ng=1 m=2

Cc2p vg1_ef_p ncc2p 500p
Cc2n vg1_ef_n ncc2n 500p
Ls2p ncc2p vg2bp 155p
Ls2n ncc2n vg2bn 155p
Cd2p vg2bp 0 45f
Cd2n vg2bn 0 45f
Rb2p vg2bp vgab 2.0k
Rb2n vg2bn vgab 2.0k

* ======================== VGA-2 ========================
Xq2p nvg2p vg2bp e2p 0 npn13G2 Nx=3
Xq2n nvg2n vg2bn e2n 0 npn13G2 Nx=3
Re2p e2p t2 9
Re2n e2n t2 9
L2p vcc nl2p 0.30n
L2n vcc nl2n 0.30n
R2p nl2p nvg2p 130
R2n nl2n nvg2n 130
Xm2fix t2 nrf 0 0 sg13_hv_nmos w=8u l=0.45u ng=1 m=3
Xm2gc t2 gc 0 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=3
C2t t2 0 3f

Xq_ef2p vcc nvg2p vg2_ef_p 0 npn13G2 Nx=2
Xmef2p vg2_ef_p nbf 0 0 sg13_hv_nmos w=6u l=0.45u ng=1 m=2
Xq_ef2n vcc nvg2n vg2_ef_n 0 npn13G2 Nx=2
Xmef2n vg2_ef_n nbf 0 0 sg13_hv_nmos w=6u l=0.45u ng=1 m=2

Cc3p vg2_ef_p ncc3p 500p
Cc3n vg2_ef_n ncc3n 500p
Ls3p ncc3p bufinp 155p
Ls3n ncc3n bufinn 155p
Cd3p bufinp 0 45f
Cd3n bufinn 0 45f
Rbbp bufinp vbb 1.8k
Rbbn bufinn vbb 1.8k

* ======================== output buffer ========================
Xqbp outp bufinp ebp 0 npn13G2 Nx=8
Xqbn outn bufinn ebn 0 npn13G2 Nx=8
Rebp ebp tb 13
Rebn ebn tb 13
Rbp vcc outp 62
Rbn vcc outn 62
Rbufft tb 0 64
Ctb tb 0 3f

Ralias_p finalp outp 1m
Ralias_n finaln outn 1m

* ======================== peak detector ========================
Cpd_lp pkdinp pd_blp 24f
Cpd_ln pkdinn pd_bln 24f
Rpd_blp pd_blp pd_biasl 8k
Rpd_bln pd_bln pd_biasl 8k
Rpd_hl vcc pd_biasl 75k
Rpd_ll pd_biasl 0 100k
Cpd_bl pd_biasl 0 0.2p
Xqpd_lp detp pd_blp pd_ela 0 npn13G2 Nx=1
Xqpd_ln detn pd_bln pd_ela 0 npn13G2 Nx=1
Rpd_ela pd_ela pd_el 10
Rpd_el pd_el 0 250
Cpd_ep pkdinp pd_bep 42f
Cpd_en pkdinn pd_ben 42f
Rpd_bep pd_bep pd_biase 8k
Rpd_ben pd_ben pd_biase 8k
Rpd_he vcc pd_biase 220k
Rpd_le pd_biase 0 22k
Cpd_be pd_biase 0 0.2p
Xqpd_ep detp pd_bep pd_eea 0 npn13G2 Nx=1
Xqpd_en detn pd_ben pd_eea 0 npn13G2 Nx=1
Rpd_eea pd_eea pd_ee 10
Rpd_ee pd_ee 0 18
Rpd_cp vcc detp 2.4k
Rpd_cn vcc detn 2.4k
Cpd_op detp 0 6f
Cpd_on detn 0 6f

* ======================== AGC amplifier (~15 V/V) ========================
Rag_rh vcc ag_ref 21000
Rag_rl ag_ref 0 12000
Cag_r ag_ref 0 0.2p
Xagb nagb nagb 0 0 sg13_hv_nmos w=4u l=1.5u ng=1 m=1
Ragb vcc nagb 200k
Xagp ncp oa agt 0 sg13_hv_nmos w=10u l=0.8u ng=1 m=32
Xagn agc ag_ref agt 0 sg13_hv_nmos w=10u l=0.8u ng=1 m=32
Xagt agt nagb 0 0 sg13_hv_nmos w=10u l=1.5u ng=1 m=4
Rag_cp vcc ncp 35220
Rag_cn vcc agc 35220
Cagc agc 0 0.2p

* ======================== manual / automatic mux ========================
Xmux_n mc_b mc 0 0 sg13_hv_nmos w=4u l=0.45u ng=1 m=1
Xmux_p mc_b mc vcc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=1
Xman_n gc mc_b mgc 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=8
Xman_p gc mc mgc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=8
Xaut_n gc mc agc 0 sg13_hv_nmos w=10u l=0.45u ng=1 m=8
Xaut_p gc mc_b agc vcc sg13_hv_pmos w=10u l=0.4u ng=1 m=8
Cgc gc 0 20f

V_TB_VCC vcc 0 3.3
V_TB_MC mc 0 0
V_TB_MGC mgc 0 1.4
V_TB_OA oa 0 1.2
I_TB_P 0 inp DC 0
I_TB_N inn 0 DC 0
V_TB_BUFP bufinp 0 SIN(2.235 0.18375 1G)
V_TB_BUFN bufinn 0 SIN(2.235 0.18375 1G 0 0 180)

.control
set wr_vecnames
set wr_singlescale
tran 2p 2n 0 2p
wrdata transient.dat v(bufinp) v(bufinn) v(outp) v(outn)
quit
.endc
.end
